* LM13700 Dual Operational Transconductance Amplifier
* EQUIVALENT SUBSTITUTE FOR LM13700 IS NE5517/NTE870 (SAME 14-PIN DIP PINOUT)
*
* SPICE (Simulation Program with Integrated Circuit Emphasis)
* SUBCIRCUIT
*
*               Amplifier Bias Input
* 				 | Diode Bias
* 				 | | Positive Input
* 				 | | | Negative Input
* 				 | | | | Output
* 				 | | | | | V-
* 				 | | | | | | Buffer Input
* 				 | | | | | | | Buffer Output
* 				 | | | | | | | | V+
* 				 | | | | | | | | |
.SUBCKT LM13700  1 2 3 4 5 6 7 8 11
*
C1 6 4 4.8P
C2 3 6 4.8P
* Output capacitor
C3 5 6 6.26P
D1 2 4 DX
D2 2 3 DX
D3 11 21 DX
D4 21 22 DX
D5 1 26 DX
D6 26 27 DX
D7 5 29 DX
D8 28 5 DX
D10 31 25 DX
* Clamp for -CMR
D11 28 25 DX
* Ios source
F1 4 3 POLY(1) V6 1E-10 5.129E-2 -1.189E4 1.123E9
F2 11 5 V2 1.022
F3 25 6 V3 1.0
F4 5 6 V1 1.022
* Output impedance
F5 5 0 POLY(2) V3 V7 0 0 0 0 1
G1 0 33 5 0 .55E-3
I1 11 6 300U
Q1 24 32 31 QX1
Q2 23 3 31 QX2
Q3 11 7 30 QZ
Q4 11 30 8 QY
V1 22 24 0V
V2 22 23 0V
V3 27 6 0V
V4 11 29 1.4
V5 28 6 1.2
V6 4 32 0V
V7 33 0 0V
.MODEL QX1 NPN (IS=5E-16 BF=200 NE=1.15 ISE=.63E-16 IKF=1E-2)
.MODEL QX2 NPN (IS=5.125E-16 BF=200 NE=1.15 ISE=.63E-16 IKF=1E-2)
.MODEL QY NPN (IS=6E-15 BF=50)
.MODEL QZ NPN (IS=5E-16 BF=266)
.MODEL DX D (IS=5E-16)
.ENDS
