.SUBCKT irf5803d2 1 3 4 5 8
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Feb 19, 02
* MODEL FORMAT: SPICE3
* Symmetry POWER MOS Model (Version 1.0)
* External Node Designations
* Node 1 -> Schottky Anode (+)
* Node 3 -> P_Channel Source
* Node 4 -> P_Channel Gate
* Node 5 -> P_Channel Drain
* Node 6 -> Schottky Cathode (-)

X1 5 4 3 irf5803
D1 1 8   irf5803d

.MODEL irf5803d d
+IS=2.46815e-13 RS=0.0215361 N=0.5 EG=0.6
+XTI=0.5 BV=40 IBV=0.00025 CJO=1.00403e-09
+VJ=0.91579 M=0.514407 FC=0.5 TT=1e-09
+KF=0 AF=1

.ENDS irf5803d2

.SUBCKT irf5803 1 2 3
M1 9 7 8 8 MM L=100u W=100u 
.MODEL MM PMOS LEVEL=1 IS=1e-32
+VTO=-2.6145 LAMBDA=0.00422473 KP=4.04914
+CGSO=1.04e-05 CGDO=4.35428e-07
RS 8 3 0.0001
D1 1 3 MD
.MODEL MD D IS=1.49776e-09 RS=0.022033 N=1.5 BV=40
+IBV=0.00025 EG=1 XTI=1 TT=0.0001
+CJO=1.23506e-10 VJ=3.00164 M=0.713349 FC=0.5
RDS 3 1 1e+06
RD 9 1 0.02
RG 2 7 23.0064
D2 5 4 MD1
* Default values used in MD1:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL MD1 D IS=1e-32 N=50
+CJO=1.53016e-10 VJ=0.5 M=0.543059 FC=1e-08
D3 5 0 MD2
* Default values used in MD2:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   BV=infinite IBV=1mA
.MODEL MD2 D IS=1e-10 N=0.403965 RS=3e-06
RL 5 10 1
FI2 7 9 VFI2 -1
VFI2 4 0 0
EV16 10 0 9 7 1
CAP 11 10 1.21977e-09
FI1 7 9 VFI1 -1
VFI1 11 6 0
RCAP 6 10 1
D4 6 0 MD3
* Default values used in MD3:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL MD3 D IS=1e-10 N=0.403965
.ENDS irf5803
